US06759554B2
3-Amino-N-hexylaniline (FIG. 10, Entry 2)
Using the general procedure, 3-bromoaniline (172 mg, 1.0 mmol) was coupled with n-hexylamine (198 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (2:1) as eluent afforded the desired product as a colorless oil (154 mg, 80% yield). Rf=0.4 (hexane/ethyl acetate=2:1).

reactant | 3-bromoaniline | 1.0 mmol, 172 mg | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | n-hexylamine | 1.5 mmol, 198 μL | C(CCCCC)N | C6H15N
product | 3-Amino-N-hexylaniline | 154 mg, 80% yield | NC=1C=C(NCCCCCC)C=CC1 | C12H20N2
